US07759030B2
Phenyl-p-tolylamine (11.5 g (0.063 mol)), 14.5 g (0.030 mol) of 4,4″-diiodo-p-terphenyl, 5.0 g (0.036 mol) of anhydrous potassium carbonate, 0.38 g (0.006 mol) of copper powder and 15 ml of n-dodecane were mixed, and heated up to 200 to 210° C. while introducing nitrogen gas, followed by stirring for 30 hours. After the termination of the reaction, the reaction product was extracted with 400 ml of toluene, and insoluble matter was removed by filtration. Then, the filtrate was concentrated to dryness. The resulting solid matter was purified by column chromatography (carrier: silica gel, eluent: toluene:hexane=1:4) to obtain 13.6 g of N,N′-diphenyl-N,N′-di-p-tolyl-4,4″-diamino-p-terphenyl (compound No. 17) (yield: 76.4%, melting point: 167.2 to 168.2° C.).

reactant | Phenyl-p-tolylamine | 0.063 mol, 11.5 g | C1(=CC=CC=C1)NC1=CC=C(C=C1)C | C13H13N
reactant | 4,4″-diiodo-p-terphenyl | 0.030 mol, 14.5 g | IC1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)I | C18H12I2
reactant | potassium carbonate | 0.036 mol, 5.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | n-dodecane | 15 ml | CCCCCCCCCCCC | C12H26
catalyst | copper | 0.006 mol, 0.38 g | [Cu] | Cu
product | N,N′-diphenyl-N,N′-di-p-tolyl-4,4″-diamino-p-terphenyl | 13.6 g, yield: 76.4% | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC=C(C=C1)C)C1=CC=CC=C1)C1=CC=C(C=C1)C | C44H36N2
